US08703768B2
Step 4: 3-[(4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carbonyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
The product was obtained starting from 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid (30 mg, 79 μmol) and tert-butyl-3-aminopyrrolidine-1-carboxylate hydrochloride (23 mg, 103 μmol) according to the method described in example 64, step 6 after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (28 mg, 65%).

reactant | 4-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carboxylic acid | 79 μmol, 30 mg | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=C(N(N=C1)C)C(=O)O)NC=1C=NC=NC1 | C17H16N8O3
reactant | tert-butyl-3-aminopyrrolidine-1-carboxylate hydrochloride | 103 μmol, 23 mg | Cl.C(C)(C)(C)OC(=O)N1CC(CC1)N
product | 3-[(4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-2H-pyrazole-3-carbonyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1N(N=CC1NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1)C | C26H32N10O4
